US06326333B1
4,4,8-Trimethylthiochroman-7-carboxylic acid
62.9 g of methyl 4,4,8-trimethylthiochroman-7-carboxylate were initially charged in 600 ml of a 1:1 mixture of water/methanol, and 15.1 g (0.377 mol) of sodium hydroxide were added. The solution was then heated under reflux for three hours, the organic solvent was removed, 200 ml of water were added and the mixture was made acidic using conc. hydrochloric acid with cooling. The precipitate was filtered off with suction, washed with water and dried.

reactant | methyl 4,4,8-trimethylthiochroman-7-carboxylate | 62.9 g | CC1(CCSC2=C(C(=CC=C12)C(=O)OC)C)C | C14H18O2S
reactant | sodium hydroxide | 0.377 mol, 15.1 g | [OH-].[Na+]
solvent | water methanol | O.CO
product | 4,4,8-Trimethylthiochroman-7-carboxylic acid | CC1(CCSC2=C(C(=CC=C12)C(=O)O)C)C | C13H16O2S
